* PEX produced on Wed Apr  8 02:17:52 AM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from sparx160_powdet_sbd_pex.ext - technology: ihp-sg13g2

.subckt sparx160_powdet_sbd_pex vout vref vdd rfin vss
X0 vdd.t28 vss.t37 cap_cmim l=10u w=10u
X1 vdd.t14 vss.t52 cap_cmim l=10u w=10u
X2 m1_n3390_n9096# vss.t11 cap_cmim l=10u w=10u
X3 m1_n3390_n9096# vss.t14 cap_cmim l=10u w=10u
X4 m1_n3390_n9096# vss.t30 cap_cmim l=10u w=10u
X5 vdd.t26 vss.t38 cap_cmim l=10u w=10u
X6 vdd.t11 vss.t51 cap_cmim l=10u w=10u
X7 m1_n3390_n9096# vss.t29 cap_cmim l=10u w=10u
X8 vdd.t19 vss.t48 cap_cmim l=10u w=10u
X9 m1_n3390_n9096# vss.t21 cap_cmim l=10u w=10u
X10 vdd.t17 vss.t58 cap_cmim l=10u w=10u
X11 vdd.t12 vss.t1 cap_cmim l=10u w=10u
X12 vdd.t6 vss.t7 cap_cmim l=10u w=10u
X13 m1_n3390_n9096# vss.t31 cap_cmim l=10u w=10u
X14 vdd.t5 vss.t40 cap_cmim l=10u w=10u
X15 vdd.t13 vss.t43 cap_cmim l=9u w=6.8u
X16 m1_n3390_n9096# vss.t24 cap_cmim l=10u w=10u
X17 m1_n3390_n9096# vss.t27 cap_cmim l=10u w=10u
X18 vdd.t8 vss.t2 cap_cmim l=9u w=6.8u
X19 m1_n3390_n9096# vss.t22 cap_cmim l=10u w=10u
X20 vdd vss.t3 cap_cmim l=10u w=10u
X21 m1_n3390_n9096# vss.t33 cap_cmim l=10u w=10u
X22 vdd.t3 vss.t0 cap_cmim l=10u w=10u
X23 m1_n3390_n9096# vss.t25 cap_cmim l=10u w=10u
X24 vdd.t15 vss.t46 cap_cmim l=10u w=10u
X25 m1_n3390_n9096# vss cap_cmim l=10u w=10u
X26 vdd.t23 vss.t54 cap_cmim l=10u w=10u
X27 vdd.t21 vss.t57 cap_cmim l=10u w=10u
X28 m1_n3390_n9096# vss.t12 cap_cmim l=10u w=10u
X29 m1_n3390_n9096# vss.t23 cap_cmim l=10u w=10u
X30 m1_n3390_n9096# vss.t19 cap_cmim l=10u w=10u
X31 vdd.t9 vss.t50 cap_cmim l=10u w=10u
X32 m1_n3390_n9096# vss.t13 cap_cmim l=10u w=10u
X33 m1_n3390_n9096# vss.t15 cap_cmim l=10u w=10u
X34 vdd.t24 vss.t44 cap_cmim l=10u w=10u
X35 m1_n3390_n9096# vss.t16 cap_cmim l=10u w=10u
X36 m1_n3390_n9096# vss.t34 cap_cmim l=10u w=10u
X37 m1_n3390_n9096# vss.t35 cap_cmim l=10u w=10u
X38 vdd.t4 vss.t56 cap_cmim l=10u w=10u
X39 vdd.t2 vss.t5 cap_cmim l=10u w=10u
X40 vdd.t22 vss.t47 cap_cmim l=10u w=10u
X41 m1_n3390_n9096# vss.t28 cap_cmim l=10u w=10u
X42 m1_n3390_n9096# vss.t26 cap_cmim l=10u w=10u
X43 m1_n3390_n9096# vss.t36 cap_cmim l=10u w=10u
X44 rfin.t0 m1_n3750_n8348.t0 cap_cmim l=10u w=10u
X45 vdd.t27 vss.t6 cap_cmim l=10u w=10u
X46 vdd.t25 vss.t53 cap_cmim l=10u w=10u
X47 m1_n3390_n9096# vss.t8 cap_cmim l=10u w=10u
X48 vdd.t7 vss.t41 cap_cmim l=10u w=10u
X49 m1_n3390_n9096# vss.t32 cap_cmim l=10u w=10u
X50 vdd.t18 vss.t45 cap_cmim l=10u w=10u
X51 vdd.t16 vss.t55 cap_cmim l=10u w=10u
X52 m1_n3390_n9096# vss.t9 cap_cmim l=10u w=10u
X53 m1_n3390_n9096# vss.t10 cap_cmim l=10u w=10u
X54 m1_n3390_n9096# vss.t17 cap_cmim l=10u w=10u
X55 vdd.t20 vss.t4 cap_cmim l=10u w=10u
X56 vdd.t10 vss.t42 cap_cmim l=10u w=10u
X57 m1_n3390_n9096# vss.t18 cap_cmim l=10u w=10u
X58 m1_n3390_n9096# vss.t20 cap_cmim l=10u w=10u
X59 vdd.t1 vss.t49 cap_cmim l=10u w=10u
X60 vdd.t0 vss.t39 cap_cmim l=10u w=10u
R0 rfin.n0 rfin.t0 0.0951377
R1 rfin rfin.n0 0.0014714
R2 rfin.n0 rfin 0.00147126
R3 vss vss.t10 0.09994
R4 vss.t16 vss.t15 0.09994
R5 vss.t37 vss.t11 0.09994
R6 vss.t44 vss.t54 0.09994
R7 vss.t6 vss.t38 0.09994
R8 vss.t57 vss.t47 0.09994
R9 vss.t1 vss.t51 0.09994
R10 vss.t34 vss.t33 0.09994
R11 vss.t33 vss.t32 0.09994
R12 vss.t28 vss.t27 0.09994
R13 vss.t23 vss.t22 0.09994
R14 vss.t17 vss.t18 0.09994
R15 vss.t9 vss.t8 0.09994
R16 vss.t12 vss.t13 0.09994
R17 vss.t13 vss.t14 0.09994
R18 vss.t18 vss.t19 0.09994
R19 vss.t21 vss.t20 0.09994
R20 vss.t19 vss.t20 0.09994
R21 vss.t24 vss.t23 0.09994
R22 vss.t28 vss.t29 0.09994
R23 vss.t35 vss.t34 0.09994
R24 vss.t0 vss.t5 0.09994
R25 vss.t0 vss.t56 0.09994
R26 vss.t56 vss.t36 0.09994
R27 vss.t31 vss.t30 0.09994
R28 vss.t36 vss.t35 0.09994
R29 vss.t25 vss.t26 0.09994
R30 vss.t21 vss.t48 0.09994
R31 vss.t48 vss.t45 0.09994
R32 vss.t58 vss.t45 0.09994
R33 vss.t55 vss.t58 0.09994
R34 vss.t1 vss.t52 0.09994
R35 vss.t50 vss.t41 0.09994
R36 vss.t7 vss.t41 0.09994
R37 vss.t5 vss.t49 0.09994
R38 vss.t49 vss.t39 0.09994
R39 vss.t7 vss.t40 0.09994
R40 vss.t51 vss.t42 0.09994
R41 vss.t46 vss.t55 0.09994
R42 vss.t53 vss.t3 0.09994
R43 vss.t4 vss.t57 0.09994
R44 vss.t38 vss.t53 0.09994
R45 vss.t54 vss.t47 0.09994
R46 vss.t6 vss.t37 0.09994
R47 vss.t44 vss.t16 0.09994
R48 vss.t11 vss.t10 0.09994
R49 vss.t15 vss.t14 0.09994
R50 vss vss.t9 0.0958543
R51 vss.t50 vss.t2 0.0904498
R52 vss.t52 vss.t43 0.0904498
R53 vss.t24 vss.n1 0.0707114
R54 vss.n0 vss.t29 0.0707114
R55 vss.n1 vss.n0 0.0453627
R56 vss.t30 vss.n0 0.0297286
R57 vss.n1 vss.t25 0.0297286
R58 vss.t25 vss.t20 0.01194
R59 vss.t19 vss.t14 0.01194
R60 vss.t27 vss.t32 0.01194
R61 vss.t27 vss.t22 0.01194
R62 vss.t17 vss.t22 0.01194
R63 vss.t9 vss.t13 0.01194
R64 vss.t8 vss.t12 0.01194
R65 vss.t12 vss.t17 0.01194
R66 vss.t18 vss.t13 0.01194
R67 vss.t18 vss.t23 0.01194
R68 vss.t19 vss.t24 0.01194
R69 vss.t24 vss.t29 0.01194
R70 vss.t28 vss.t23 0.01194
R71 vss.t33 vss.t28 0.01194
R72 vss.t34 vss.t29 0.01194
R73 vss.t26 vss.t31 0.01194
R74 vss.t36 vss.t31 0.01194
R75 vss.t25 vss.t30 0.01194
R76 vss.t35 vss.t30 0.01194
R77 vss.t21 vss.t16 0.01194
R78 vss.t26 vss.t21 0.01194
R79 vss.t54 vss.t45 0.01194
R80 vss.t52 vss.t45 0.01194
R81 vss.t58 vss.t1 0.01194
R82 vss.t1 vss.t41 0.01194
R83 vss.t52 vss.t50 0.01194
R84 vss.t50 vss.t0 0.01194
R85 vss.t5 vss.t41 0.01194
R86 vss.t40 vss.t39 0.01194
R87 vss.t7 vss.t51 0.01194
R88 vss.t49 vss.t7 0.01194
R89 vss.t46 vss.t42 0.01194
R90 vss.t40 vss.t42 0.01194
R91 vss.t55 vss.t57 0.01194
R92 vss.t55 vss.t51 0.01194
R93 vss.t3 vss.t4 0.01194
R94 vss.t4 vss.t46 0.01194
R95 vss.t53 vss.t57 0.01194
R96 vss.t38 vss.t47 0.01194
R97 vss.t58 vss.t47 0.01194
R98 vss.t54 vss.t6 0.01194
R99 vss.t44 vss.t37 0.01194
R100 vss.t48 vss.t44 0.01194
R101 vss.t11 vss.t16 0.01194
R102 vss.t15 vss.t10 0.01194
R103 vss.t15 vss.t20 0.01194
R104 vss vss.t14 0.01194
R105 vdd.t13 vdd.t8 0.1681
R106 vdd.t8 vdd.t9 0.0332986
R107 vdd.t14 vdd.t13 0.0332986
R108 vdd vdd.t25 0.02588
R109 vdd.t25 vdd.t26 0.02588
R110 vdd.t26 vdd.t27 0.02588
R111 vdd.t27 vdd.t28 0.02588
R112 vdd.t19 vdd.t18 0.02588
R113 vdd.t23 vdd.t22 0.02588
R114 vdd.t22 vdd.t21 0.02588
R115 vdd.t16 vdd.t17 0.02588
R116 vdd.t18 vdd.t17 0.02588
R117 vdd.t14 vdd.t12 0.02588
R118 vdd.t12 vdd.t11 0.02588
R119 vdd.t6 vdd.t7 0.02588
R120 vdd.t7 vdd.t9 0.02588
R121 vdd.t3 vdd.t4 0.02588
R122 vdd.t2 vdd.t3 0.02588
R123 vdd.t1 vdd.t2 0.02588
R124 vdd.t0 vdd.t1 0.02588
R125 vdd.t5 vdd.t10 0.02588
R126 vdd.t10 vdd.t15 0.02588
R127 vdd.t15 vdd.t20 0.02588
R128 vdd.t28 vdd.t24 0.01688
R129 vdd.t24 vdd.t19 0.01688
R130 vdd.t24 vdd.t23 0.01688
R131 vdd.t21 vdd.t20 0.01688
R132 vdd.t15 vdd.t16 0.01688
R133 vdd.t11 vdd.t10 0.01688
R134 vdd.t6 vdd.t5 0.01688
R135 vdd.t5 vdd.t0 0.01688
R136 vdd vdd.t20 0.01688
R137 vdd.t2 vdd.t7 0.00788
R138 vdd.t12 vdd.t7 0.00788
R139 vdd.t12 vdd.t17 0.00788
R140 vdd.t17 vdd.t22 0.00788
R141 vdd.t18 vdd.t23 0.00788
R142 vdd.t27 vdd.t23 0.00788
R143 vdd.t26 vdd.t22 0.00788
R144 vdd.t25 vdd.t21 0.00788
R145 vdd.t11 vdd.t16 0.00788
R146 vdd.t16 vdd.t21 0.00788
R147 vdd.t14 vdd.t9 0.00788
R148 vdd.t18 vdd.t14 0.00788
R149 vdd.t6 vdd.t1 0.00788
R150 vdd.t11 vdd.t6 0.00788
R151 vdd.t3 vdd.t9 0.00788
R152 m1_n3750_n8348.n0 m1_n3750_n8348.t0 0.0163321
R153 m1_n3750_n8348.n3 m1_n3750_n8348.n2 4.5005
R154 m1_n3750_n8348.n7 m1_n3750_n8348.n6 4.5005
R155 m1_n3750_n8348.t0 m1_n3750_n8348.n3 1.6765
R156 m1_n3750_n8348.n3 m1_n3750_n8348.n7 0.0618115
R157 m1_n3750_n8348.n7 m1_n3750_n8348.n1 4.56181
R158 m1_n3750_n8348.n6 m1_n3750_n8348.n5 0.138
R159 m1_n3750_n8348.n6 m1_n3750_n8348.n4 0.138
R160 m1_n3750_n8348.n5 m1_n3750_n8348.n1 0.236495
R161 m1_n3750_n8348.n4 m1_n3750_n8348.n1 0.236495
R162 m1_n3750_n8348.n5 m1_n3750_n8348.n2 0.236495
R163 m1_n3750_n8348.n2 m1_n3750_n8348.n4 0.236495
C0 m1_n3879_n1026# vout 0.03717f
C1 dw_n1636_n1975# m1_n3285_861# 0.08623f
C2 m1_n3285_861# m1_n1425_147# 0.01518f
C3 m1_n3285_861# m1_n3285_657# 0.01518f
C4 m1_n3285_861# m1_n1425_n465# 0.01518f
C5 m1_n3285_861# m1_n3285_351# 0.01518f
C6 m1_n3285_861# m1_n3285_147# 0.01518f
C7 m1_n3285_861# m1_n2112_n251# 0.02877f
C8 m1_n4096_n8110# rfin 0.01727f
C9 m1_n1125_n6# vout 0.07059f
C10 m1_n3285_n567# m1_n3285_861# 0.01518f
C11 vout m1_n1125_402# 0.07078f
C12 m1_n1425_n1077# m1_n3285_861# 0.01518f
C13 m1_n3285_861# m1_n3285_249# 0.01518f
C14 vss m1_n3285_861# 0.79879f
C15 m1_n1425_n57# m1_n3285_861# 0.01518f
C16 m1_n3285_861# vout 0.63875f
C17 m1_n3285_861# m1_n3285_n1077# 0.01518f
C18 m1_n1125_n1026# dw_n1636_n1975# 0.03831f
C19 m1_n3285_861# m1_n1425_n975# 0.01518f
C20 m1_n3285_861# vref 0.11974f
C21 m1_n4096_n8110# m1_n3390_n9096# 0.02053f
C22 vdd m1_478_n6092# 0.10434f
C23 m1_n3285_861# m1_n1425_453# 0.01518f
C24 dw_n1636_n1975# vdd 1.70818f
C25 m1_n3879_402# vout 0.03736f
C26 m1_n3285_861# m1_n1425_n1281# 0.01505f
C27 m1_n3285_45# m1_n3285_861# 0.01518f
C28 m1_n1125_n1026# vout 0.07041f
C29 vss dw_n1636_n1975# 0.4069f
C30 m1_n3285_861# m1_n3285_453# 0.01518f
C31 dw_n1636_n1975# vout 0.22948f
C32 m1_n3390_n9096# vdd 4.82437f
C33 vss vdd 42.526f
C34 m1_n1425_n363# m1_n3285_861# 0.01518f
C35 m1_n1125_n618# dw_n1636_n1975# 0.03831f
C36 m1_n3285_861# m1_n3285_n57# 0.01518f
C37 m1_n3390_n9096# vss 43.2307f
C38 m1_n3750_n7231# dw_n3746_n7778# 0.11129f
C39 vdd vout 0.22432f
C40 m1_n3285_861# m1_n1425_n669# 0.01518f
C41 m1_n3285_n261# dw_n2478_n7778# 0.11129f
C42 m1_n1125_606# dw_n1636_n1975# 0.03831f
C43 vss vout 7.75119f
C44 m1_n1125_810# dw_n1636_n1975# 0.03831f
C45 m1_n1425_n1179# m1_n3285_861# 0.01518f
C46 m1_n3879_n822# vout 0.03717f
C47 dw_n1636_n1975# m1_n1125_n1230# 0.03831f
C48 m1_n1425_555# m1_n3285_861# 0.01518f
C49 vss vref 0.48471f
C50 m1_n3285_861# m1_n3285_555# 0.01518f
C51 m1_n2492_n251# vref 0.02879f
C52 m1_n3285_861# m1_n3285_n1281# 0.01505f
C53 dw_n1636_n1975# m1_n1125_n414# 0.03831f
C54 m1_n1121_n210# dw_n1636_n1975# 0.03258f
C55 m1_n3285_n261# m1_n3285_861# 0.1363f
C56 m1_n1125_n618# vout 0.07041f
C57 m1_n3285_861# m1_n3285_n1179# 0.01518f
C58 vref vout 0.57824f
C59 m1_n3879_n6# vout 0.03726f
C60 m1_n3285_861# m1_n3285_n873# 0.01518f
C61 m1_n1125_606# vout 0.07078f
C62 m1_n1125_810# vout 0.07041f
C63 m1_n1125_n1230# vout 0.07023f
C64 m1_n3879_n1230# vout 0.03707f
C65 m1_n1125_198# dw_n1636_n1975# 0.03831f
C66 m1_n3285_861# m1_n1425_n873# 0.01518f
C67 m1_n4096_n8110# m1_n3285_n261# 0.01008f
C68 m1_n3879_198# vout 0.03736f
C69 m1_n3285_n363# m1_n3285_861# 0.01518f
C70 m1_n1125_n414# vout 0.07041f
C71 m1_n3285_861# m1_n1425_657# 0.01518f
C72 m1_n1425_n567# m1_n3285_861# 0.01518f
C73 m1_n2482_n8490# dw_n2478_n7778# 0.05919f
C74 m1_n1125_n822# dw_n1636_n1975# 0.03831f
C75 m1_n1121_n210# vref 0.03162f
C76 m1_n3285_n261# dw_n1636_n1975# 0.02785f
C77 m1_n3750_n7231# m1_n3285_861# 0.16066f
C78 m1_n3285_861# m1_n3285_n465# 0.01518f
C79 m1_n3285_861# m1_n1425_351# 0.01518f
C80 m1_n3285_861# m1_n1425_861# 0.01505f
C81 m1_n1125_198# vout 0.07078f
C82 m1_n3285_n975# m1_n3285_861# 0.01518f
C83 m1_n1425_n771# m1_n3285_861# 0.01518f
C84 m1_n3285_n261# vdd 0.01008f
C85 vout m1_n3879_n414# 0.03717f
C86 m1_n2112_161# vout 0.0288f
C87 dw_n2478_n7778# rfin 0.01154f
C88 m1_n3879_n618# vout 0.03717f
C89 vss m1_n3285_n261# 0.19411f
C90 m1_n3285_861# m1_n3285_n669# 0.01518f
C91 m1_n1125_n822# vout 0.07041f
C92 m1_n3285_861# m1_n1425_759# 0.01518f
C93 m1_n3285_n261# vout 0.01665f
C94 m1_n1425_45# m1_n3285_861# 0.01518f
C95 m1_n3879_606# vout 0.03736f
C96 m1_n3285_n771# m1_n3285_861# 0.01518f
C97 m1_n3285_n261# vref 0.10245f
C98 dw_n1636_n1975# m1_n1125_n6# 0.03831f
C99 m1_n3285_861# m1_n3285_759# 0.01518f
C100 dw_n1636_n1975# m1_n1125_402# 0.03831f
C101 m1_n3285_861# rfin 0.01454f
C102 m1_n2482_n8490# rfin 0.01636f
C103 m1_n3285_861# m1_n1425_249# 0.01518f
C104 rfin w_n11868_n11065# 2.50662f
C105 vref w_n11868_n11065# 1.61334f
C106 vout w_n11868_n11065# 10.85728f
C107 vss w_n11868_n11065# 65.74103f
C108 vdd w_n11868_n11065# 11.32f
C109 m1_n2482_n8490# w_n11868_n11065# 0.13794f $ **FLOATING
C110 m1_n3750_n7231# w_n11868_n11065# 0.03563f $ **FLOATING
C111 m1_n4096_n8110# w_n11868_n11065# 1.02305f $ **FLOATING
C112 m1_478_n6092# w_n11868_n11065# 0.05482f $ **FLOATING
C113 m1_n3390_n9096# w_n11868_n11065# 9.35937f
C114 m1_n3879_n1230# w_n11868_n11065# 0.02022f $ **FLOATING
C115 m1_n3879_n1026# w_n11868_n11065# 0.02022f $ **FLOATING
C116 m1_n3879_n822# w_n11868_n11065# 0.02022f $ **FLOATING
C117 m1_n3879_n618# w_n11868_n11065# 0.02022f $ **FLOATING
C118 m1_n3879_n414# w_n11868_n11065# 0.02022f $ **FLOATING
C119 m1_n2112_n251# w_n11868_n11065# 0.0152f $ **FLOATING
C120 m1_n2492_n251# w_n11868_n11065# 0.0152f $ **FLOATING
C121 m1_n3879_n6# w_n11868_n11065# 0.02022f $ **FLOATING
C122 m1_n2112_161# w_n11868_n11065# 0.0152f $ **FLOATING
C123 m1_n3285_n261# w_n11868_n11065# 0.48282f $ **FLOATING
C124 m1_n3879_198# w_n11868_n11065# 0.02022f $ **FLOATING
C125 m1_n3879_402# w_n11868_n11065# 0.02022f $ **FLOATING
C126 m1_n3879_606# w_n11868_n11065# 0.02022f $ **FLOATING
C127 m1_n3285_861# w_n11868_n11065# 0.40672f $ **FLOATING
C128 m1_n3750_n8348.n0 w_n11868_n11065# 0.5045f
C129 m1_n3750_n8348.n3 w_n11868_n11065# 0.09835f
C130 m1_n3750_n8348.t0 w_n11868_n11065# 0.76023f
C131 vdd.t20 w_n11868_n11065# 1.6574f
C132 vdd.t21 w_n11868_n11065# 1.55958f
C133 vdd.t22 w_n11868_n11065# 1.68311f
C134 vdd.t23 w_n11868_n11065# 1.55958f
C135 vdd.t17 w_n11868_n11065# 1.68311f
C136 vdd.t9 w_n11868_n11065# 1.63805f
C137 vdd.t7 w_n11868_n11065# 1.68311f
C138 vdd.t16 w_n11868_n11065# 1.55958f
C139 vdd.t15 w_n11868_n11065# 1.78093f
C140 vdd.t10 w_n11868_n11065# 1.78093f
C141 vdd.t4 w_n11868_n11065# 1.76084f
C142 vdd.t3 w_n11868_n11065# 1.6574f
C143 vdd.t2 w_n11868_n11065# 1.6574f
C144 vdd.t1 w_n11868_n11065# 1.6574f
C145 vdd.t0 w_n11868_n11065# 1.75522f
C146 vdd.t5 w_n11868_n11065# 1.6574f
C147 vdd.t6 w_n11868_n11065# 1.55958f
C148 vdd.t11 w_n11868_n11065# 1.55958f
C149 vdd.t12 w_n11868_n11065# 1.68311f
C150 vdd.t8 w_n11868_n11065# 1.38785f
C151 vdd.t13 w_n11868_n11065# 1.38785f
C152 vdd.t14 w_n11868_n11065# 1.63805f
C153 vdd.t18 w_n11868_n11065# 1.68311f
C154 vdd.t19 w_n11868_n11065# 1.75522f
C155 vdd.t24 w_n11868_n11065# 1.53387f
C156 vdd.t28 w_n11868_n11065# 1.75522f
C157 vdd.t27 w_n11868_n11065# 1.6574f
C158 vdd.t26 w_n11868_n11065# 1.6574f
C159 vdd.t25 w_n11868_n11065# 1.6574f
C160 vss.t14 w_n11868_n11065# 1.60116f
C161 vss.t10 w_n11868_n11065# 1.58831f
C162 vss.t13 w_n11868_n11065# 1.60116f
C163 vss.t22 w_n11868_n11065# 1.58831f
C164 vss.t23 w_n11868_n11065# 1.60116f
C165 vss.t20 w_n11868_n11065# 1.60116f
C166 vss.t29 w_n11868_n11065# 1.38037f
C167 vss.n0 w_n11868_n11065# 1.23455f
C168 vss.t30 w_n11868_n11065# 1.0708f
C169 vss.t31 w_n11868_n11065# 1.58831f
C170 vss.t15 w_n11868_n11065# 1.60116f
C171 vss.t16 w_n11868_n11065# 1.60116f
C172 vss.t45 w_n11868_n11065# 1.60116f
C173 vss.t11 w_n11868_n11065# 1.58831f
C174 vss.t37 w_n11868_n11065# 1.58831f
C175 vss.t47 w_n11868_n11065# 1.60116f
C176 vss.t57 w_n11868_n11065# 1.60116f
C177 vss.t42 w_n11868_n11065# 1.58831f
C178 vss.t51 w_n11868_n11065# 1.60116f
C179 vss.t41 w_n11868_n11065# 1.60116f
C180 vss.t43 w_n11868_n11065# 1.11517f
C181 vss.t39 w_n11868_n11065# 1.57546f
C182 vss.t40 w_n11868_n11065# 1.58831f
C183 vss.t7 w_n11868_n11065# 1.60116f
C184 vss.t49 w_n11868_n11065# 1.58831f
C185 vss.t5 w_n11868_n11065# 1.58831f
C186 vss.t32 w_n11868_n11065# 1.57546f
C187 vss.t27 w_n11868_n11065# 1.58831f
C188 vss.t28 w_n11868_n11065# 1.60116f
C189 vss.t33 w_n11868_n11065# 1.58831f
C190 vss.t34 w_n11868_n11065# 1.58831f
C191 vss.t35 w_n11868_n11065# 1.58831f
C192 vss.t36 w_n11868_n11065# 1.58831f
C193 vss.t56 w_n11868_n11065# 1.57546f
C194 vss.t0 w_n11868_n11065# 1.58831f
C195 vss.t2 w_n11868_n11065# 1.11517f
C196 vss.t50 w_n11868_n11065# 1.50698f
C197 vss.t52 w_n11868_n11065# 1.50698f
C198 vss.t1 w_n11868_n11065# 1.60116f
C199 vss.t58 w_n11868_n11065# 1.60116f
C200 vss.t55 w_n11868_n11065# 1.60116f
C201 vss.t46 w_n11868_n11065# 1.58831f
C202 vss.t4 w_n11868_n11065# 1.58831f
C203 vss.t3 w_n11868_n11065# 1.57546f
C204 vss.t53 w_n11868_n11065# 1.58831f
C205 vss.t38 w_n11868_n11065# 1.58831f
C206 vss.t6 w_n11868_n11065# 1.58831f
C207 vss.t54 w_n11868_n11065# 1.60116f
C208 vss.t44 w_n11868_n11065# 1.60116f
C209 vss.t48 w_n11868_n11065# 1.58831f
C210 vss.t21 w_n11868_n11065# 1.60116f
C211 vss.t26 w_n11868_n11065# 1.58831f
C212 vss.t25 w_n11868_n11065# 1.0708f
C213 vss.n1 w_n11868_n11065# 1.21643f
C214 vss.t24 w_n11868_n11065# 1.38037f
C215 vss.t19 w_n11868_n11065# 1.60116f
C216 vss.t18 w_n11868_n11065# 1.60116f
C217 vss.t17 w_n11868_n11065# 1.58831f
C218 vss.t12 w_n11868_n11065# 1.58831f
C219 vss.t8 w_n11868_n11065# 1.57546f
C220 vss.t9 w_n11868_n11065# 1.5561f
C221 rfin.t0 w_n11868_n11065# 0.87636f
.ends

